US07262212B2
A mixture of tert-butyl 4-piperidin-4-ylpiperazine-1-carboxylate (1.5 g, 5.67 mmol), 4-(trifluoromethoxy)bromobenzene (3.36 g, 13.92 mmol), palladium acetate (25 mg, 0.11 mmol), BINAP (87 mg, 0.14 mmol), and sodium tert-butoxide (1.07 g, 11.14 mmol) in toluene (20 ml) was stirred at 80° C. under a nitrogen atmosphere for 8 hours. The reaction mixture was allowed to return to room temperature, to which ethyl acetate (10 ml) and brine (20 ml) were added, and the mixture was filtered. The organic layer was separated, and dried over sodium sulfate. After filtration, the filtrate was concentrated, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=20/1) to afford tert-butyl 4-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazine-1-carboxylate (1.01 g, 42%) as a yellow powder.

reactant | tert-butyl 4-piperidin-4-ylpiperazine-1-carboxylate | 5.67 mmol, 1.5 g | N1CCC(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H27N3O2
reactant | 4-(trifluoromethoxy)bromobenzene | 13.92 mmol, 3.36 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | sodium tert-butoxide | 11.14 mmol, 1.07 g | CC(C)([O-])C.[Na+]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | 20 ml | [Cl-].[Na+].O
catalyst | palladium acetate | 0.11 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.14 mmol, 87 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | tert-butyl 4-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazine-1-carboxylate | 1.01 g, 42% | FC(OC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C21H30F3N3O3
